US07192982B2
(2S)-2-Methoxy-3-{4-[3-(3-trifluoromethyl-phenoxy)-propoxy]-phenyl}-propionic acid
The title compound was prepared from (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid linked to Wang's Resin Example 94, Step D) via Mitsunobu coupling with 3-trifluoromethylphenol and cleavage from the resin (Standard Procedure CG) gave an oily solid.

reactant | (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C13H18O5
reactant | 3-trifluoromethylphenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
product | (2S)-2-Methoxy-3-{4-[3-(3-trifluoromethyl-phenoxy)-propoxy]-phenyl}-propionic acid | CO[C@H](C(=O)O)CC1=CC=C(C=C1)OCCCOC1=CC(=CC=C1)C(F)(F)F | C20H21F3O5
